US05583178
Preparation of 2-Phenyl-1,1,3-tricyanopropylene
A mixture of 250 grams (1.722 mol, 1 eq) of benzoylacetonitrile, 284 grams (270 mL, 4.306 mol, 2.5 eq) of malononitrile and 138 grams (1.784 mol, 1.04 eq) of ammonium acetate in 2500 mL of ethanol was heated to reflux for 1.5 hours and then cooled to room temperature. To this mixture was added 190 mL of 12M hydrochloric acid dropwise with cooling (ice/water bath). The mixture was placed in a separate flask and a solid formed. To this mixture was added 3300 mL of water with stirring. The solid was collected and washed with 2 liters of water and stirred with 1200 mL of ethanol to give 203.3 grams (61% yield) of product.

reactant | benzoylacetonitrile | 1.722 mol, 250 grams, 1 eq | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | malononitrile | 4.306 mol, 270 mL, 284 grams, 2.5 eq | C(CC#N)#N | C3H2N2
reactant | ammonium acetate | 1.784 mol, 138 grams, 1.04 eq | C(C)(=O)[O-].[NH4+]
reactant | hydrochloric acid | 12M, 190 mL | Cl | ClH
solvent | ethanol | 2500 mL | C(C)O | C2H6O
solvent | water | 3300 mL | O | H2O
product | 2-Phenyl-1,1,3-tricyanopropylene | 203.3 grams, 61% yield | C1(=CC=CC=C1)C(=C(C#N)C#N)CC#N | C12H7N3
